US05721234
Preparation of N-(7-azido-5,6,7,8-tetrahydronaphthalen-1-yl)-acetamide
A mixture of methanesulfonic acid 8-acetylamino-1,2,3,4-tetrahydronaphthalen-2-yl ester (3.8 g, 13 mmol) and sodium azide (1.7 g, 27 mmol) in dimethylformamide (70 mL) was heated at 50° C. for 6 h. The solvent was removed by rotoevaporation in vacuo and the residue partitioned between methylene chloride and water. The organic layer was separated, dried over sodium sulfate, filtered and evaporated to give a dark solid. The product was purified by column chromatography on silica gel (1:1 ethyl acetate:hexane as eluant) to give a white solid (2.9 g) in 97% yield.

reactant | methanesulfonic acid 8-acetylamino-1,2,3,4-tetrahydronaphthalen-2-yl ester | 13 mmol, 3.8 g | C(C)(=O)NC=1C=CC=C2CCC(CC12)OS(=O)(=O)C | C13H17NO4S
reactant | sodium azide | 27 mmol, 1.7 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 70 mL | CN(C=O)C | C3H7NO
product | N-(7-azido-5,6,7,8-tetrahydronaphthalen-1-yl)-acetamide | 2.9 g, 97% yield | N(=[N+]=[N-])C1CCC=2C=CC=C(C2C1)NC(C)=O | C12H14N4O
